US07517873B2
To a mixture of 5.02 g (0.025 mole) of 3-cyclopentylamino-2,2-dimethyl-propanoic acid methyl ester, 5.30 g (0.0276 mole) of 2,4-dichloro-5-nitro-pyrimidine and 100 mL of ether was added 20 mL of water and 5.00 g (0.050 mole) of potassium bicarbonate. The mixture was stirred at room temperature for 14 hours. The resulting two-layer mixture was separated and the aqueous layer was extracted twice with 20 mL of ether. The combined ether extracts were washed successively with 20 mL of aqueous sodium carbonate, twice with 20 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 8.60 g of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester (IV-38) as a yellow solid.

reactant | 3-cyclopentylamino-2,2-dimethyl-propanoic acid methyl ester | 0.025 mole, 5.02 g | COC(C(CNC1CCCC1)(C)C)=O | C11H21NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0276 mole, 5.30 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | potassium bicarbonate | 0.050 mole, 5.00 g | C([O-])(O)=O.[K+]
solvent | water | 20 mL | O | H2O
product | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester | 8.60 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(C)C)=O | C15H21ClN4O4
